US07888374B2
N-(4-Amino-5-cyano-6-ethoxy-pyridin-2-yl)-acetamide
To 50 mg (0.28 mmol) of 4,6-diamino-2-ethoxy-nicotinonitrile dissolved in 1 mL of pyridine was added 60 μL (0.84 mmol) of acetyl chloride. The mixture was stirred at ambient temperature for 2 hours then diluted with 7 mL of water. The precipitate was filtered and washed with 5 mL of water. The supernatant was extracted with ethyl acetate (3×5 mL), then the combined ethyl acetate layers were back extracted with brine (1×5 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to a solid. This was combined with the precipitated product, dissolved in methanol/ethyl acetate, and concentrated. Most of the remaining pyridine was removed by coevaporation with toluene under reduced pressure. The product was purified via silica gel chromatography, eluting with 50% ethyl acetate/hexanes to provide 31 mg (50%) of a white solid. 1H NMR (300 MHz, d6-DMSO) δ 10.73 (s, 1H), 7.17 (s, 1H), 6.88 (s, 2H), 4.32 (q, 2H, J=7.1 Hz), 2.07 (s, 3H), 1.29 (t, 3H, J=7.1 Hz); MS (ESI) m/e=221 (M+H)+, m/e=219 (M−H)−.

reactant | 4,6-diamino-2-ethoxy-nicotinonitrile | 0.28 mmol, 50 mg | NC1=CC(=NC(=C1C#N)OCC)N | C8H10N4O
reactant | acetyl chloride | 0.84 mmol, 60 μL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 7 mL | O | H2O
product | N-(4-Amino-5-cyano-6-ethoxy-pyridin-2-yl)-acetamide | 31 mg, 50% | NC1=CC(=NC(=C1C#N)OCC)NC(C)=O | C10H12N4O2
